US04717783
Freshly distilled trimethylsilylcyclopentadiene (1.6 g, 11.5 mmole) is dissolved in 10 ml of absolute ligroin. To this solution is added a solution of butyllithium (1.9N, 6.35 ml, 12.0 mmole) in ligroin dropwise with stirring. The mixture is stirred for one hour at room temperature. Chlorotrimethylsilane (2.6 g, 24 mmole) is added to the mixture under an argon sweep, and the resulting mixture heated for 3 hours at 40° C. The ligroin solution is filtered, the solvent evaporated, and the residue distilled under a vacuum to give 1,3-bis(trimethylsilyl)cyclopentadiene, b.p. 45° C./3 mm Hg.

reactant | trimethylsilylcyclopentadiene | 11.5 mmole, 1.6 g | C[Si](C)(C)C1=CC=CC1 | C8H14Si
reactant | butyllithium | 12.0 mmole, 1.9N, 6.35 ml | C(CCC)[Li]
reactant | Chlorotrimethylsilane | 24 mmole, 2.6 g | Cl[Si](C)(C)C | C3H9ClSi
product | 1,3-bis(trimethylsilyl)cyclopentadiene | C[Si](C1=CC(=CC1)[Si](C)(C)C)(C)C | C11H22Si2
